US04017522
N-methyl-N-(2-lauroyloxyethyl)-p-toluamide
N-methyl-N-(2-lauroyloxyethyl)-p-toluamide was prepared by the procedure of example 1 from 19 gms. (0.1 mole) of N-methyl-N-(2-hydroxyethyl)-p-toluamide and 22 gms. (0.1 mole) of lauroyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N-methyl-N-(2-hydroxyethyl)-p-toluamide | 0.1 mole | CN(C(=O)C1=CC=C(C=C1)C)CCO | C11H15NO2
reactant | lauroyl chloride | 0.1 mole | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
product | N-methyl-N-(2-lauroyloxyethyl)-p-toluamide | CN(C(=O)C1=CC=C(C=C1)C)CCOC(CCCCCCCCCCC)=O | C23H37NO3
